US07491714B2
(f) 4-(1-Butoxy-vinyl)-8-fluoro-6-methoxy-quinoline
15.5 g (47.5 mmol) of 1,1,1-Trifluoro-methanesulfonic acid 8-fluoro-6-methoxy-quinolin-4-yl ester, 24.5 mL (0.19 mol) of butyl vinyl ether and 13.3 mL of triethylamine were takent up in 100 mL of DMF. 2.0 g (4.75 mmol) of dppp (1,3-bis(diphenylphosphino)propane) and 1.06 g (4.75 mmol) of Pd(OAc)2 were added and the contents heated to 60 C for 4 hrs. No starting material remained. Contents were rotary-evaporated to remove as much DMF as possible. Crude material was purified by flash chromatography on silica gel using 10% ethyl acetate/hexanes as the eluent to give 9.0 g (69%) of the desired product. 1H NMR (CDCl3, 400 MHz) 8.78 (d, 1H), 7.43 (d, 1H), 7.28 (m, 1H), 7.09 (d, 1H), 4.58 (d, 1H), 4.50 (d, 1H), 3.96 (t, 2H), 3.90 (s, 3H), 1.80 (m, 2H), 1.53 (m, 2H), 0.97 (t, 3H LCMS (M+H)+ 276.

reactant | 1,1,1-Trifluoro-methanesulfonic acid 8-fluoro-6-methoxy-quinolin-4-yl ester | 47.5 mmol, 15.5 g | FC=1C=C(C=C2C(=CC=NC12)OS(=O)(=O)C(F)(F)F)OC | C11H7F4NO4S
reactant | butyl vinyl ether | 0.19 mol, 24.5 mL | C(=C)OCCCC | C6H12O
reactant | triethylamine | 13.3 mL | C(C)N(CC)CC | C6H15N
reactant | dppp | 4.75 mmol, 2.0 g | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
catalyst | Pd(OAc)2 | 4.75 mmol, 1.06 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 4-(1-Butoxy-vinyl)-8-fluoro-6-methoxy-quinoline | 9.0 g, 69% | C(CCC)OC(=C)C1=CC=NC2=C(C=C(C=C12)OC)F | C16H18FNO2
